US05455260
To a mixture of 2-[4-(benzoxazol-2-yl)benzyloxy)]ethylamine hydrochloride (0.11 g; 0.38 mmol) dissolved in MeOH (2 ml) and Et3N (0.053 ml; 0.38 mmol) is added dried and powdered 3 Å molecular sieves along with 2-phenylethoxyacetaldehyde (0.11 g; 0.68 mmol). After 1 hour, a 1M THF solution of sodium cyanoborohydride (0.75 ml; 0.75 mmol) is added dropwise. After 2 hours, the reaction mixture is quenched with acetone and 2N HCl and then concentrated in vacuo to dryness. The residue is dissolved in 3 ml 15% NaOH, extracted with Et2O 4×, dried (MgSO4) and concentrated in vacuo to dryness. The residue is purified by column chromatography using 10% MeOH/CH2Cl2. The product is dissolved in EtOH acidified with HCl/EtOH and concentrated to yield N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(2-phenylethoxy)ethanamine hydrochloride as a white solid. (m.p. 174°-175 ° C.).

reactant | ethylamine hydrochloride | 0.38 mmol, 0.11 g | Cl.C(C)N
reactant | Et3N | 0.38 mmol, 0.053 ml | CCN(CC)CC | C6H15N
reactant | 2-phenylethoxyacetaldehyde | 0.68 mmol, 0.11 g | C1(=CC=CC=C1)CCOCC=O | C10H12O2
reactant | sodium cyanoborohydride | 0.75 mmol, 0.75 ml | C(#N)[BH3-].[Na+]
reactant | MeOH | 2 ml | CO | CH4O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(2-phenylethoxy)ethanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCNCCOCCC1=CC=CC=C1)C=C2 | InChI=1S/C26H28N2O3.ClH/c1-2-6-21(7-3-1)14-17-29-18-15-27-16-19-30-20-22-10-12-23(13-11-22)26-28-24-8-4-5-9-25(24)31-26;/h1-13,27H,14-20H2;1H
